US06982348B2
To a solution of (4RS,5SR)-5-(2-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one (7.0 g, 20.6 mmol) in ethanol (100 ml) was added 8N aqueous sodium hydroxide solution (12.9 ml, 103 mmol) and the mixture was heated under reflux for 6 hrs. The reaction solution was concentrated, diluted with water (300 ml) and extracted with ethyl acetate (300 ml×2). The extract was washed with saturated brine, dried over anhydrous magnesium sulfate and evaporated under reduced pressure. The residue was purified by silica gel column chromatography (ethyl acetate) to give (1RS,2SR)-2-amino-1-(2-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol (6.2 g, 96%) as a colorless oil.

reactant | (4RS,5SR)-5-(2-fluorophenyl)-4-((4-(trifluoromethyl)phenyl)methyl)-1,3-oxazolidin-2-one | 20.6 mmol, 7.0 g | FC1=C(C=CC=C1)C1C(NC(O1)=O)CC1=CC=C(C=C1)C(F)(F)F | C17H13F4NO2
reactant | sodium hydroxide | 103 mmol, 8N, 12.9 ml | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | (1RS,2SR)-2-amino-1-(2-fluorophenyl)-3-(4-(trifluoromethyl)phenyl)-1-propanol | 6.2 g, 96% | NC(C(O)C1=C(C=CC=C1)F)CC1=CC=C(C=C1)C(F)(F)F | C16H15F4NO
